US06531491B1
N-Methyl-N-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine, prepared in Example 11 (34 mg, 0.041 mmol) was suspended in CH2Cl2 (0.5 mL) at 23° C. under an atmosphere of argon. Pyridine (81 pi, 1.0 mmol), Ac2O (94 μl, 1.0 mmol) and DMAP (cat.) were added. The reaction became homogeneous immediately. After 1 h, TLC analysis (CH2Cl2:EtOAc 4:1) indicated no starting material. The reaction was quenched with saturated NaHCO3 (aq) (2 mL) then diluted with EtOAc (15 mL) and the organic phase was washed with brine (3 mL), decanted and concentrated under reduced pressure to an oil. The oil was suspended in MeOH (2 mL) and K2CO3 (83 mg, 0.6 mmol) was added. The resulting mixture was stirred at 23° C. under an atmosphere of argon. After 1 h, the reaction was diluted with EtOAc (15 mL) and the organic phase was washed with brine (3 mL), decanted and concentrated under reduced pressure. The crude material was purified by semi-prep HPLC to give N-{3-[methyl-(3-styryl-1H-indazol-6-yl)-amino]-phenyl}-acetamide (8.4 mg, 22%). 1H NMR (300 MHz, CDCl3) δ 7.86 (d, 1H, J=8.68 Hz), 7.58 (d, 1H, J=7.17 Hz), 7.16-7.45 (m, 7H), 7.15 (d, 1H, J=8.29 Hz), 6.98 (m, 1H), 6.95 (d, 1H, J=1.92 Hz), 6.8 (dd, 1H, J=1.16,8.05 Hz), 3.37 (s, 3H), 2.14 (s, 3H). LCMS (ESI) [M+H]/z Calc'd 383, Found 383. Anal. Calc'd: C, 75.37; H, 5.80; N, 14.65. Found: C, 73.53; H, 6.01; N, 13.73.

reactant | N-Methyl-N-{3-styryl-1-[2-(trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine | CN(C1=CC(=CC=C1)N)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)C=CC1=CC=CC=C1 | C28H34N4OSi
reactant | Pyridine | 1.0 mmol | N1=CC=CC=C1 | C5H5N
reactant | Ac2O | 1.0 mmol, 94 μl | CC(=O)OC(=O)C | C4H6O3
reactant | K2CO3 | 0.6 mmol, 83 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | N-{3-[methyl-(3-styryl-1H-indazol-6-yl)-amino]-phenyl}-acetamide | 8.4 mg, 22% | CN(C=1C=C(C=CC1)NC(C)=O)C1=CC=C2C(=NNC2=C1)C=CC1=CC=CC=C1 | C24H22N4O
